US07601856B2
The core molecule was synthesized following method A. Potassium t-butoxide (12 g, 110 mmol) was added in portions to a cooled (0° C.) solution of cyclopentanone oxime (9.9 g, 100 mmol) in DMF (150 mL). The cooled reaction mixture was stirred for 20 minutes and then 1-fluoro-4-nitrobenzene (14 g, 100 mmol) was added in portions. The reaction mixture was stirred at ˜10° C. for 30 minutes and then allowed to warm to room temperature and stirred for an additional 4 hours. The reaction mixture was concentrated under reduced pressure to remove the DMF and then treated with water (300 mL). The precipitate was collected by filtration and washed with water to provide cyclopentanone O-(4-nitro-phenyl)-oxime (17 g). Cyclopentanone O-(4-nitro-phenyl)-oxime (14 g, 62 mmol) was dissolved in glacial acetic acid (40 mL) and 1.9 N hydrochloric acid (40 mL) was added. The reaction mixture was stirred at room temperature for 50 minutes and then concentrated. The solid was mixed with water (250 mL) and allowed to stand for 1 hour. The crude mixture was extracted with ethyl acetate and the combined organic phases were dried (Na2SO4) and concentrated. The crude material was dissolved in toluene (350 mL) and p-toluenesulfonic acid (2.0 g, 10 mmol) was added. The reaction mixture was heated to reflux for 4 hours and water was removed with a Dean-Stark trap. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine. The organic phase was dried (Na2SO4) and concentrated to give 5-nitro-2,3-dihydro-1H-cyclopenta[b]benzofuran (10 g). A mixture of give 5-nitro-2,3-dihydro-1H-cyclopenta[b]benzofuran (5.4 g, 27 mmol) and Raney nickel (˜5 g wet weight) in ethanol (50 mL) was hydrogenated at 50 PSI on a Parr shaker for 2 hours. The mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was purified by column chromatography to provide 2,3-dihydro-1H-cyclopenta[b]benzofuran-7-ylamine (4.0 g). Mp 86.5-88.5° C.

reactant | Potassium t-butoxide | 110 mmol, 12 g | CC(C)([O-])C.[K+]
reactant | cyclopentanone oxime | 100 mmol, 9.9 g | C1(CCCC1)=NO | C5H9NO
reactant | 1-fluoro-4-nitrobenzene | 100 mmol, 14 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | cyclopentanone O-(4-nitro-phenyl)-oxime | 17 g | [N+](=O)([O-])C1=CC=C(C=C1)ON=C1CCCC1 | C11H12N2O3
